US04987132
A solution of ethyl 4-(3-methyl-3-phenylbutyl)piperazine-1-carboxylate (1.17 g) in conc. hydrochloric acid (15 ml) was heated in a sealed tube for 12 hours at 120° C. The solution was concentrated and to the resultant residue was added 10% sodium hydroxide to make basic. The mixture thus obtained was saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated to give 0.85 g of 1-(3-methyl-3-phenylbutyl)piperazine.

reactant | ethyl 4-(3-methyl-3-phenylbutyl)piperazine-1-carboxylate | 1.17 g | CC(CCN1CCN(CC1)C(=O)OCC)(C)C1=CC=CC=C1 | C18H28N2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 1-(3-methyl-3-phenylbutyl)piperazine | 0.85 g | CC(CCN1CCNCC1)(C)C1=CC=CC=C1 | C15H24N2
